US08314126B2
4-[3-FLUORO-2-(TRIFLUOROMETHYL)PHENYL]-1-PROPYL-1,2,3,6-TETRAHYDROPYRIDINE
Preparation according to preparation 2: 4-[3-fluoro-2-(trifluoromethyl)phenyl]-1-propylpiperidin-4-ol (2.98 g, 9.8 mmol), hydrochloric acid (40 ml, cone). Yield: 2.37 g. MS m/z (rel. intensity, 70 eV) 305 (M+, 7), 277 (14), 276 (bp), 258 (57), 163 (7).

reactant | 4-[3-fluoro-2-(trifluoromethyl)phenyl]-1-propylpiperidin-4-ol | 9.8 mmol, 2.98 g | FC=1C(=C(C=CC1)C1(CCN(CC1)CCC)O)C(F)(F)F | C15H19F4NO
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | 4-[3-FLUORO-2-(TRIFLUOROMETHYL)PHENYL]-1-PROPYL-1,2,3,6-TETRAHYDROPYRIDINE | FC=1C(=C(C=CC1)C=1CCN(CC1)CCC)C(F)(F)F | C15H17F4N
